US04528382
N-Methyl 4-Methylbenzimidoyl Chloride
N-Methyl 4-methylbenzamide (10.02 g, 67.2 mmole) was treated with thionyl chloride (31.7 g, 267 mmole) as in Example I. Gas evolution ceased after the reaction had been heated for 45 minutes. The product was isolated as in Example I to yield 9.0 g (80%) of the title compound as a clear colorless liquid, b.p. 57° C. (~0.1 mm Hg).

reactant | N-Methyl 4-methylbenzamide | 67.2 mmole, 10.02 g | CNC(C1=CC=C(C=C1)C)=O | C9H11NO
reactant | thionyl chloride | 267 mmole, 31.7 g | S(=O)(Cl)Cl | Cl2OS
product | N-Methyl 4-Methylbenzimidoyl Chloride | 9.0 g, 80% | CN=C(C1=CC=C(C=C1)C)Cl | C9H10ClN
